US08278441B2
1-(3-Bromophenyl)but-3-en-1-ol
To a solution of 3-bromobenzaldehyde (15.8 g, 85.6 mmol) in dry diethyl ether (200 mL) at 0° C. under nitrogen atmosphere with stirring is added allylmagnesium bromide solution in ether (85.6 mL, 85.6 mmol) dropwise. The resulting mixture is warmed to room temperature over 1 hr and is quenched by the addition of 1 N HCl aqueous solution. The reaction is extracted with dichloromethane, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with 0% to 100% dichloromethane in hexanes over 50 minutes to give the title compound as a racemic mixture (17.01 g, 88%). ES/MS m/e (79Br/81Br) 227, 229 (M+1).

reactant | 3-bromobenzaldehyde | 85.6 mmol, 15.8 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ether | 85.6 mmol, 85.6 mL | CCOCC | C4H10O
product | 1-(3-Bromophenyl)but-3-en-1-ol | BrC=1C=C(C=CC1)C(CC=C)O | C10H11BrO
